US06114565
To a stirred mixture of 200 ml of isopropanol and 1.36 g of cupric chloride at 17-23° C. was added dropwise 58 g (0.487 mole) of 29.4% aqueous ammonium hydroxide over a period of 190 min. Parallel to the addition of ammonium hydroxide, a solution of 601 g of 99% piperonal (0.396 mole) and 1.0 g of hexadecane (internal standard) in 100 ml of isopropanol was added over a period of 147 min. Parallel to the additions of ammonium hydroxide and piperonal, 150 g (2.2 moles) of 50% aqueous hydrogen peroxide was added over a period of 590 min. After the additions were finished, the mixture was worked up by stirring for 1 hour with 10% aqueous sodium sulfite, and diluted with water and chloroform. The organic layer was separated, the water layer was extracted with chloroform. After evaporation of the solvent, the weight of the crude solid product was 36.4 g (crude yield about 60%). Recrystallization of the crude from boiling heptane gave 17.9 g of crystalline piperonylonitrile; yield 30.7% of the theory.

reactant | ammonium hydroxide | 0.487 mole, 58 g | [OH-].[NH4+]
reactant | piperonal | 0.396 mole, 601 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | hydrogen peroxide | 2.2 moles, 150 g | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | hexadecane | 1.0 g | CCCCCCCCCCCCCCCC | C16H34
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | piperonylonitrile | 17.9 g, yield 30.7% | C(C1=CC=2OCOC2C=C1)#N | C8H5NO2
